US07863442B2
4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine (100 g, 0.38 mol), N-methylpiperazine (250 mL, 2.5 vol) and 2-propanol (200 mL, 2 vol) were charged into a three-necked round bottom flask equipped with reflux condenser, overhead stirrer, and thermometer. The reaction mixture was heated to reflux at 102° C. under a nitrogen atmosphere overnight. The reaction mixture was allowed to cool to below 55° C. whereupon water (250 mL, 2.5 volumes) was added to precipitate out the solid. The light yellow solid was isolated by Buchner filtration and twice washed with 25% aqueous 2-propanol (100 mL) and then once with 2-propanol (100 mL). It was dried in vacuo to provide olanzapine in 86.5% yield (101.7 g).

reactant | 4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine | 0.38 mol, 100 g | NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C | C12H11N3S
reactant | N-methylpiperazine | 250 mL | CN1CCNCC1 | C5H12N2
reactant | 2-propanol | 200 mL | CC(C)O | C3H8O
solvent | water | 250 mL | O | H2O
product | olanzapine | 86.5% yield | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
